US07501538B2
As per Procedure A, 5-chloro-2-(2-methyl-butylamino)-benzoic acid (12.44 mmol, 3 g) was treated with (2S)-amino-3-(4-bromo-phenyl)-propionic acid methyl ester hydrochloride (12.44 mmol, 3.66 g), HBTU (14.92 mmol, 5.66 g) and diisopropylethylamine (37.32 mmol, 4.82 g) to yield 3-(4-bromo-phenyl)-(2S)-[5-chloro-2-(2-methyl-butylamino)-benzoylamino]-propionic acid methyl ester. (4.4 g, 75% yield). LC-MS m/z: 482.8 (M+1)+.

reactant | 5-chloro-2-(2-methyl-butylamino)-benzoic acid | 12.44 mmol, 3 g | ClC=1C=CC(=C(C(=O)O)C1)NCC(CC)C | C12H16ClNO2
reactant | (2S)-amino-3-(4-bromo-phenyl)-propionic acid methyl ester hydrochloride | 12.44 mmol, 3.66 g | Cl.COC([C@H](CC1=CC=C(C=C1)Br)N)=O
reactant | HBTU | 14.92 mmol, 5.66 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 37.32 mmol, 4.82 g | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-(4-bromo-phenyl)-(2S)-[5-chloro-2-(2-methyl-butylamino)-benzoylamino]-propionic acid methyl ester | 75% yield | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)NCC(CC)C)=O)=O | C22H26BrClN2O3
